Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
facial weakness
 
Major Surgical or Invasive Procedure:
n/a 

 
History of Present Illness:
___ year old woman pmhx of DM, HTN, OSA not on CPAP, medication
non compliance presents with headache and associated facial 
droop
and parasthesia. 
Briefly, pt was in her USPH until this morning at 3;30 am she
woke up to get ready for work as usual, and noted a pounding
headache. She immediately took her BP as in the past she used to
get HA associated with high BP. BP was 140/107. She states
headache located "all over". No photo, phonophobia or nausea or
emesis. No visual changes. She did notice that her lower face
felt weird like her lower face "fell asleep". This got worse
throughout the day. Her husband also noted that she had a
transient left facial droop which lasted a few minutes and then
self resolved. When she used to get these HA in the past she
would just start taking her medication more regularly and try
live a healthier life style. Sometimes she takes aleve with
improvement. She did ASA 81 mg x1 this am. She states she
currently still has the throbbing HA, but facial parasthesia 
have
improved. 
 
Past Medical History:
DM
HTN
OSA

 
Social History:
___
Family History:
Fam hx of stroke

 
Physical Exam:
EXAM ON DISCHARGE:
Physical Exam:
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. The pt had good
knowledge of current events. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI with couple of beat extinguishable end beat
nystagmus b/l.
V: Facial sensation intact to light touch.
VII: subtle  left lower facial droop, symmetric activation
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-DTRs:  
Trace reflexes BLE, 1+ BUE
        
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred
 
Pertinent Results:
___ 04:45AM BLOOD WBC-7.4 RBC-4.50 Hgb-12.3 Hct-38.5 MCV-86 
MCH-27.3 MCHC-31.9* RDW-13.5 RDWSD-43.0 Plt ___
___ 02:00PM BLOOD WBC-8.5 RBC-4.62 Hgb-12.7 Hct-39.6 MCV-86 
MCH-27.5 MCHC-32.1 RDW-13.6 RDWSD-42.7 Plt ___
___ 02:00PM BLOOD Neuts-62.9 ___ Monos-6.5 Eos-3.2 
Baso-0.6 Im ___ AbsNeut-5.34 AbsLymp-2.22 AbsMono-0.55 
AbsEos-0.27 AbsBaso-0.05
___ 04:45AM BLOOD Plt ___
___ 04:45AM BLOOD ___ PTT-32.4 ___
___ 04:45AM BLOOD Glucose-112* UreaN-14 Creat-0.7 Na-144 
K-3.9 Cl-100 HCO3-28 AnGap-16
___ 02:00PM BLOOD ALT-14 AST-24 AlkPhos-64 TotBili-0.4
___ 02:00PM BLOOD Triglyc-225* HDL-58 CHOL/HD-3.0 
LDLcalc-73
___ 03:37PM BLOOD %HbA1c-6.0 eAG-126

Images:
MRI BRAIN: No evidence of acute infarct.

EXAMINATION:  CTA HEAD AND CTA NECK Q16 CT NECK
 
INDICATION:  History: ___ with L facial numbness, headache and 
facial droop
earlier// concern for CVA/TIA. eval vessels.
 
TECHNIQUE:  Contiguous MDCT axial images were obtained through 
the brain
without contrast material. Subsequently, helically acquired 
rapid axial
imaging was performed from the aortic arch through the brain 
during the
infusion of 70 mL of Omnipaque intravenous contrast material.
Three-dimensional angiographic volume rendered, curved 
reformatted and
segmented images were generated on a dedicated workstation. This 
report is
based on interpretation of all of these images.
 
DOSE:  Acquisition sequence:
   1) Sequenced Acquisition 16.0 s, 16.0 cm; CTDIvol = 50.2 mGy 
(Head) DLP =
802.7 mGy-cm.
   2) Stationary Acquisition 4.5 s, 0.5 cm; CTDIvol = 98.0 mGy 
(Head) DLP =
49.0 mGy-cm.
   3) Spiral Acquisition 4.6 s, 36.2 cm; CTDIvol = 30.9 mGy 
(Head) DLP =
1,118.6 mGy-cm.
 Total DLP (Head) = 1,970 mGy-cm.
 
COMPARISON:  None.
 
FINDINGS: 
 
Head CT: No acute intracranial pathology.  No intracranial 
hemorrhage. No loss
of gray-white differentiation to suggest acute infarction. 
Enlarged partially
empty sella turcica.  No other features of hydrocephalus.  Small 
mucous
retention cyst present in the inferior aspect of the left 
maxillary sinus. 
Remainder the paranasal sinuses are clear.  The orbits are 
unremarkable.  The
mastoid air cells middle ears are well pneumatized and clear.  
No acute
osseous abnormality.
 
CTA HEAD: The intracranial ICA, MCA, ACA and their major 
branches are
unremarkable without evidence of high-grade stenosis, occlusion 
or aneurysm. 
Posterior circulation is also unremarkable.
 
 
CTA NECK: There is a 3 vessel arch.  Allowing for mild 
atherosclerotic
disease, the right brachiocephalic, bilateral common carotid, 
subclavian and
vertebral arteries are unremarkable there is no stenosis of the 
cervical
internal carotid arteries by NASCET criteria.
 
OTHER:
There is peribronchovascular airspace opacification with 
associated
cicatricial bronchiectasis in the upper lobes bilateral.  Right 
lower
paratracheal soft tissue most likely represents the azygos vein, 
but lymph
nodes cannot be excluded with certainty.  Visualized portion of 
the thyroid
gland is within normal limits. There is no lymphadenopathy by CT 
size
criteria.
 
IMPRESSION:
 
 
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically no
large territory infarct or intracranial hemorrhage.
2. No significant intracranial arterial stenosis, occlusion or 
aneurysm.
3. Unremarkable CTA of the neck without evidence of stenosis of 
the cervical
internal carotid arteries by NASCET criteria.
4. Peribronchovascular airspace opacification in the upper lung 
lobes. 
Dedicated chest imaging is advised to further evaluate these 
findings.
 
Brief Hospital Course:
SUMMARY: ___ year old woman with hx of DM, HTM OSA not on CPAP 
and medication non compliance who presented on ___ with 
headache
associated with left facial parasthesia in V3 distribution as
well as transient left facial droop. Exam on admission was 
notable for mild left lower facial weakness, otherwise non 
focal. She was admitted to ___ for workup for TIA. Underwent 
MRI brain which was unremarkable, no evidence of stroke or other 
significant abnormalities. 

Differential includes TIA given stroke risk factors (DM, HTM
OSA and medication non compliance) vs complex migraine (given
gradual onset of positive symptoms such as parasthesia). Patient 
was discharged on aspirin 81mg daily. LDL was 73, and offered a 
statin but patient declined until further discussion with PCP. 
She was arranged for outpatient TTE for risk stratification.

Due to her OSA, she was ordered for home sleep study and 
outpatient sleep medicine evaluation. 

She was noted to have an incidentally found spiculated lung 
lesion, for which PCP was contacted and will plan to order CT 
chest w/ contrast for further evaluation. 

TRANSITIONAL ISSUES:
1. Continue aspirin 81mg daily
2. Follow up CT chest w/ contrast (needs to be ordered by PCP) 
for evaluation of spiculated lung lesion 
3. Follow up outpatient TTE
4. Follow up outpatient sleep study and sleep medicine 
evaluation 
5. Consider starting statin for elevated LDL to 73- this was 
offered to patient who declined until further discussion with 
PCP 
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA vs complex migraine 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ after having a headache associated 
with sensory changes on the left side of your face. To look into 
your symptoms, we completed an MRI of your brain, which did not 
reveal any evidence of stroke or other notable abnormalities. 
The cause of your symptoms is unclear. The two most likely 
possibilities are a Transient Ischemic Attack (TIA) or complex 
migraine. 

A TIA is a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: sleep apnea, diabetes, high 
blood pressure and borderline high cholesterol. 

In addition, during workup into your symptoms, it was noted that 
there was a possible abnormality in your lung. We have spoken to 
your primary care physician (PCP) about this, who will arrange 
for you to 
get a CT of your chest to look into this further. 

It will be important for you to get an ultrasound of your heart, 
called a TTE (Trans-thoracic echocardiogram) to see if there is 
any abnormalities in the heart that may be causing your 
symptoms.  

Also, we have provided you with the contact information for the 
sleep medicine center to be set up for a sleep study. It is 
important that you get a sleep study done, as you may benefit 
from wearing a CPAP machine. 

 We are changing your medications as follows:  
-Started aspirin 81mg daily 
  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___